US06812226B2
(i) 1,1-Dimethylethyl 4-(4-methyl-2-oxo-2H-3,1-benzoxazin-1(4H)-yi)piperidine-1-carboxylate
Acetic acid (1 ml) was added dropwise to a solution of N-tert-butoxycarbonyl-4-piperidone (9.4 g), 1-(2-amino-phenyl)-ethanol (4.3 g) and sodium cyanoborohydride (10 g) in dichloromethane and the mixture stirred at room temperature overnight. The mixture was partitioned between ethyl acetate and water, the organics separated and washed with aqueous sodium hydrogencarbonate solution, water, dried, and evaporated under reduced pressure. The crude product was dissolved in tetrahydrofuran (100 ml) and N,N-diisopropylethylamine (23 ml), cooled to 0° C., then triphosgene (4.3 g) added. The mixture was warmed to room temperature and stirred overnight. The mixture was partitioned between ethyl acetate and water, the organics washed with water, dried and evaporated under reduced pressure. Purification was by chromatography eluting with 20% ethyl acetate/isohexane. Yield 1.4 g.

reactant | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | N-tert-butoxycarbonyl-4-piperidone | 9.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-(2-amino-phenyl)-ethanol | 4.3 g | NC1=C(C=CC=C1)C(C)O | C8H11NO
reactant | sodium cyanoborohydride | 10 g | C(#N)[BH3-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 4-(4-methyl-2-oxo-2H-3,1-benzoxazin-1(4H)-yi)piperidine-1-carboxylate | CC1OC(N(C2=C1C=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C)=O | C19H26N2O4
